US07547700B2
Step 1: Ethyl 6-methoxymethoxymethylnicotinate (2)
Ethyl 6-hydroxymethylnicotinate (30 g, 1.65×10−1 mol) is added dropwise to a suspension of sodium hydride (8 g, 1.98×10−1 mol) in DMF (250 ml) cooled to −15° C. and maintained under a nitrogen atmosphere, and the mixture is stirred for 10 minutes and then cooled to −23° C. Chloromethyl methyl ether is then added dropwise, the mixture is stirred for 5 minutes after the end of the addition and then poured into 600 ml of ice-cold saturated NaHCO3 solution. The mixture is extracted with petroleum ether and the combined organic phases are washed with water until neutral, and then with brine and dried over Na2SO4. After filtration, the solvent is evaporated off under vacuum and the residue is distilled (P: 4.2×10−2 mb; b.p.: 120-130° C.). The title product is obtained in the form of a yellow oil (21 g), which is used in the following step without further purification.

reactant | Ethyl 6-hydroxymethylnicotinate | 1.65×10−1 mol, 30 g | OCC1=NC=C(C(=O)OCC)C=C1 | C9H11NO3
reactant | sodium hydride | 1.98×10−1 mol, 8 g | [H-].[Na+]
reactant | Chloromethyl methyl ether | COCCl | C2H5ClO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | Ethyl 6-methoxymethoxymethylnicotinate | COCOCC1=NC=C(C(=O)OCC)C=C1 | C11H15NO4
